US05201931
(-)-(9Z)-9S, 10R)-9-(5-Hydroxy-3-methylpent-3-en-1-ynyl)-3,3,8,8,10-pentamethyl-1,5-dioxaspiro[5,5]undecan-9-ol (33)
(-)-(10R)-3,3,8,8,10-Pentamethyl-1,5-dioxaspiro[5,5]undecan-9-one (1.31 g, 5.5 mmol) was reacted with Z-3-methylpent-2-en-4-yn-1-ol (0.65 g, 6.7 mmol) and n-butyllithium (1.6M in hexane, 8 mL, 12.8 mmol) in dry THF. The crude product obtained (yellow oil, 2.6 g) was purified by flash column chromatography (75% ether+25% hexane) followed by distillation using the Kugel-rohr apparatus (about 250° C., 0.06 mm Hg) to give the product as a colorless oil (1.40 g, 77%), [a]D +30.0° C. (c 1.05, CH3OH); ir and 1H nmr identical to those reported above for its antipode.

reactant | (-)-(10R)-3,3,8,8,10-Pentamethyl-1,5-dioxaspiro[5,5]undecan-9-one | 5.5 mmol, 1.31 g | CC1(COC2(OC1)CC(C([C@@H](C2)C)=O)(C)C)C | C14H24O3
reactant | Z-3-methylpent-2-en-4-yn-1-ol | 6.7 mmol, 0.65 g | C/C(=C/CO)/C#C | C6H8O
reactant | n-butyllithium | 12.8 mmol, 1.6M, 8 mL | C(CCC)[Li]
solvent | THF | C1CCOC1 | C4H8O
product | 9-(5-Hydroxy-3-methylpent-3-en-1-ynyl)-3,3,8,8,10-pentamethyl-1,5-dioxaspiro[5,5]undecan-9-ol | 1.40 g, 77% | OCC=C(C#CC1(C(CC2(OCC(CO2)(C)C)CC1C)(C)C)O)C | C20H32O4
